US04958026
1.9 g of 2-(benzyloxy-5-(2-dipropylaminoethyl)aniline, dihydrochloride, is hydrogenated in 30 ml of methanol in the presence of 150 mg of palladium/carbon (10% strength). After removing the catalyst by filtration, the mixture is concentrated and recrystallized from isopropanol, thus obtaining 0.88 g of N-[2-(3-amino-4-hydroxyphenyl)ethyl]-N,N-dipropylamine, dihydrochloride, mp 127°-151° C.

reactant | benzyloxy-5-(2-dipropylaminoethyl)aniline, dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)ONC1=CC=CC(=C1)CCN(CCC)CCC
reactant | methanol | 30 ml | CO | CH4O
catalyst | palladium/carbon | 150 mg | [Pd] | Pd
product | N-[2-(3-amino-4-hydroxyphenyl)ethyl]-N,N-dipropylamine, dihydrochloride | 0.88 g | Cl.Cl.NC=1C=C(C=CC1O)CCN(CCC)CCC | InChI=1S/C14H24N2O.2ClH/c1-3-8-16(9-4-2)10-7-12-5-6-14(17)13(15)11-12;;/h5-6,11,17H,3-4,7-10,15H2,1-2H3;2*1H
